US05869501
N-[4-[(1-t-Butoxycarbonyl-4-piperidyl)oxy]phenyl]-N-[(7-cyano-2-naphthyl)methyl]-2-bromoacetamide obtained in Reference Example 27 (237 mg) was dissolved in 1 ml of methanol, 10 ml of 40% dimethylamine aqueous solution was added to the solution, and the mixture was stirred at 60° C. for 12 hours. The reaction solution was evaporated and chloroform was added to the resulting residue. The mixture was washed with water and brine in that order, dried over anhydrous sodium sulfate and then evaporated to give 247 mg of N-[4-[(1-t-butoxycarbonyl-4-piperidyl)oxy]phenyl]-N-[(7-cyano-2-naphthyl)methyl]-2-dimethylaminoacetamide.

reactant | N-[4-[(1-t-Butoxycarbonyl-4-piperidyl)oxy]phenyl]-N-[(7-cyano-2-naphthyl)methyl]-2-bromoacetamide | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC=C(C=C1)N(C(CBr)=O)CC1=CC2=CC(=CC=C2C=C1)C#N | C30H32BrN3O4
reactant | dimethylamine | 10 ml | CNC | C2H7N
solvent | methanol | 1 ml | CO | CH4O
product | N-[4-[(1-t-butoxycarbonyl-4-piperidyl)oxy]phenyl]-N-[(7-cyano-2-naphthyl)methyl]-2-dimethylaminoacetamide | 247 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC=C(C=C1)N(C(CN(C)C)=O)CC1=CC2=CC(=CC=C2C=C1)C#N | C32H38N4O4
